US08003703B2
(i) 3-[2-(Benzyloxy)-5-chlorobenzyl]benzonitrile
A mixture of 2-benzyloxy-5-chlorophenylboronic acid (2.1 g), 3-cyanobenzyl bromide (1.57 g), sodium carbonate (1.7 g) and tetrakis(triphenylphosphine)palladium (0) (0.46 g) in ethylene glycol dimethyl ether (30 ml) was heated at 80° C. for 5 h. The mixture was cooled, partitioned between water/diethylether, the organics separated, dried and evaporated under reduced pressure. The residue was purified by chromatography on silica eluting with 5% ethylacetate/isohexane, yield 0.53 g.

reactant | 2-benzyloxy-5-chlorophenylboronic acid | 2.1 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)Cl)B(O)O | C13H12BClO3
reactant | 3-cyanobenzyl bromide | 1.57 g | C(#N)C=1C=C(CBr)C=CC1 | C8H6BrN
reactant | sodium carbonate | 1.7 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethylene glycol dimethyl ether | 30 ml | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.46 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-[2-(Benzyloxy)-5-chlorobenzyl]benzonitrile | C(C1=CC=CC=C1)OC1=C(CC=2C=C(C#N)C=CC2)C=C(C=C1)Cl | C21H16ClNO
